US08039460B2
tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2-methoxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate
Sodium hydride (60% dispersion in mineral oil; 4.0 mg, 0.112 mmol) was added to a solution of tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2-hydroxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate (19 mg, 0.047 mmol) and iodomethane (3.0 μL, 0.051 mmol) in tetrahydrofuran (0.5 mL) at 0° C., and the mixture was allowed to warm to ambient temperature. After 18 h, additional sodium hydride (2.0 mg, 0.056 mmol) and iodomethane (3.0 μL, 0.051 mmol) were added. After 1 h, the reaction was quenched with water. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (2×). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. Purification by silica gel chromatography (100% dichloromethane→94% dichloromethane/methanol) gave the title compound (6 mg). MS 422.1 (M+1).

reactant | Sodium hydride | 0.112 mmol, 4.0 mg | [H-].[Na+]
reactant | tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2-hydroxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 0.047 mmol, 19 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CCO)NC(OC(C)(C)C)=O | C21H27F2N3O3
reactant | iodomethane | 0.051 mmol, 3.0 μL | IC | CH3I
reactant | sodium hydride | 0.056 mmol, 2.0 mg | [H-].[Na+]
reactant | iodomethane | 0.051 mmol, 3.0 μL | IC | CH3I
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2-methoxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 6 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CCOC)NC(OC(C)(C)C)=O | C22H29F2N3O3
